US07262202B2
[4-(2,4-Dimethyl-1H-pyrrol-3-yl)-pyrimidin-2-yl]-(4-fluoro-phenyl)-amine [1]
To a mixture of 3-dimethylamino-1-(2,4-dimethyl-1H-pyrrol-3-yl)-propenone (1 mmol, 0.19 g) and 4-fluorophenyl guanidine nitrate (2 mmol, 0.44 g) in 2-methoxyethanol (5 mL) was added NaOH (40 mg). The reaction mixture was heated at 100–120° C. under N2 for 6 h. The solvent was evaporated to dryness and the residue was purified by flash chromatography (1:2 EtOAc/PE). Recrystallisation from EtOAc/PE afforded the title compound (174 mg, 62%) as brown crystals. 1H-NMR (CDCl3) δ: 2.21 (s, 3H, CH3), 2.43 (s, 3H, CH3), 6.33 (s, 1H, pyrrolyl-H), 6.73 (d, 1H, J=5.3 Hz, pyrimidinyl-H), 7.00 (m, 2H, Ph-H), 7.79 (m, 2H, Ph-H), 8.28 (d, 1H, J=5.3 Hz, pyrimidinyl-H), 9.16 (s, 1H, NH), 10.59 (s, 1H, NH).

reactant | 4-fluorophenyl guanidine nitrate | 2 mmol, 0.44 g | [N+](=O)(O)[O-].FC1=CC=C(C=C1)NC(=N)N
reactant | NaOH | 40 mg | [OH-].[Na+]
reactant | 2-methoxyethanol | 5 mL | COCCO | C3H8O2
product | [4-(2,4-Dimethyl-1H-pyrrol-3-yl)-pyrimidin-2-yl]-(4-fluoro-phenyl)-amine | 174 mg, 62% | CC=1NC=C(C1C1=NC(=NC=C1)NC1=CC=C(C=C1)F)C | C16H15FN4
